US09062032B2
To a mixture of 200 mg of 2-{[3-(chloromethyl)benzoyl]amino}-N-[4-(diethylamino)phenyl]-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide and 8 mL of DMF was added 1.0 mL of morpholine, followed by stirring for 3 days at room temperature. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform:methanol:aqueous ammonia solution=50:1:0.1). The obtained residue was dissolved in a mixed solution of ethyl acetate and ethanol (4:1), and 1.0 mL of 4.0 M hydrogen chloride/ethyl acetate solution was further added thereto. The precipitated solid was collected by filtration, thereby obtaining 183 mg of N-[4-(diethylamino)phenyl]-2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide dihydrochloride.

reactant | 2-{[3-(chloromethyl)benzoyl]amino}-N-[4-(diethylamino)phenyl]-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide | 200 mg | ClCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)N(CC)CC)CCCC3)C=CC1 | C27H30ClN3O2S
reactant | morpholine | 1.0 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N-[4-(diethylamino)phenyl]-2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide dihydrochloride | 183 mg | Cl.Cl.C(C)N(C1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(C2=CC(=CC=C2)CN2CCOCC2)=O)CC | InChI=1S/C31H38N4O3S.2ClH/c1-3-35(4-2)25-14-12-24(13-15-25)32-30(37)28-26-10-5-6-11-27(26)39-31(28)33-29(36)23-9-7-8-22(20-23)21-34-16-18-38-19-17-34;;/h7-9,12-15,20H,3-6,10-11,16-19,21H2,1-2H3,(H,32,37)(H,33,36);2*1H
